datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCC(C)[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CCC(C)[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC(C(=O)[O-])(c1ccccc1)[NH2:10].Cc1scc(C(=O)[O-])[n+:21]1[H:20]>>CC(C(=O)[O-])(c1ccccc1)[NH2+:10][H:20].Cc1scc(C(=O)[O-])[n:21]1 10=20;20,21=21",
"C[NH+](C)C[C@@H]1[C@@H]([NH2:10])[C@]2(C)CC[C@@H]1C2(C)C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[NH+](C)C[C@@H]1[C@@H]([NH2+:10][H:20])[C@]2(C)CC[C@@H]1C2(C)C.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[n+]1ccc2c([O:21][H:20])cccc2c1.O=C(CC[NH2:10])NC(Cc1cnc[nH]1)C(=O)[O-]>>C[n+]1ccc2c([O-:21])cccc2c1.O=C(CC[NH2+:10][H:20])NC(Cc1cnc[nH]1)C(=O)[O-] 10=20;20,21=21",
"COC(=O)CC(=N[O-])/C(C)=N/[O-:10].ONc1ccc([O:21][H:20])cc1>>COC(=O)CC(=N[O-])/C(C)=N/[O:10][H:20].ONc1ccc([O-:21])cc1 10=20;20,21=21",
"Cc1cc(C)c2ccc3c(C)cc(C)[n+:21]([H:20])c3c2n1.Cc1ccc(SC2CC(=O)[N-:10]2)cc1>>Cc1cc(C)c2ccc3c(C)cc(C)[n:21]c3c2n1.Cc1ccc(SC2CC(=O)[N:10]2[H:20])cc1 10=20;20,21=21",
"CC(CC1CCCCC1)[NH:10]C.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CC(CC1CCCCC1)[NH+:10](C)[H:20].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"C[N+:21](C)(CCOC(c1ccccc1)c1ccccc1)[H:20].O=[Se](c1cccc(-c2ccccc2)c1)[O-:10]>>C[N:21](C)CCOC(c1ccccc1)c1ccccc1.O=[Se](c1cccc(-c2ccccc2)c1)[O:10][H:20] 10=20;20,21=21",
"C(=N/c1ncc2nc[nH]c2n1)\c1ccccc1[O-:10].Cn1c[n+:21]([H:20])c2cncnc21>>C(=N/c1ncc2nc[nH]c2n1)\c1ccccc1[O:10][H:20].Cn1c[n:21]c2cncnc21 10=20;20,21=21",
"Cc1ccc(S(=O)(=O)[N-:10]C(CC(N)=O)C(=O)[O-])cc1.Nc1cnc2c(N)nc(N)[n+:21]([H:20])c2n1>>Cc1ccc(S(=O)(=O)[N:10](C(CC(N)=O)C(=O)[O-])[H:20])cc1.Nc1cnc2c(N)nc(N)[n:21]c2n1 10=20;20,21=21",
"Oc1c(I)cc(I)c2ccc[n+:21]([H:20])c12.[O-]c1cc([O-:10])c2ccccc2[nH+]1>>Oc1c(I)cc(I)c2ccc[n:21]c12.[O-]c1cc([O:10][H:20])c2ccccc2[nH+]1 10=20;20,21=21",
"O=C([O-])CCCCCCC[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>O=C([O-])CCCCCCC[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"C[N+:21](C)(O)[H:20].[NH3+]C(c1ncc[nH]1)c1[nH]cc[n:10]1>>C[N:21](C)O.[NH3+]C(c1ncc[nH]1)c1[nH]cc[n+:10]1[H:20] 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1ccc(CC[NH2:10])cc1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1ccc(CC[NH2+:10][H:20])cc1 10=20;20,21=21",
"N[C@H]1CC(=O)N(CCCC[C@@H](C(=O)[O-])[NH2:10])C1=O.O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>N[C@H]1CC(=O)N(CCCC[C@@H](C(=O)[O-])[NH2+:10][H:20])C1=O.O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CCOC(=O)C1(c2ccccc2)CC[N:10](CC)CC1.CC[NH+](CC)Cc1cc(Cl)ccc1[O:21][H:20]>>CCOC(=O)C1(c2ccccc2)CC[N+:10](CC)([H:20])CC1.CC[NH+](CC)Cc1cc(Cl)ccc1[O-:21] 10=20;20,21=21",
"C=CC(=O)NC(C)(C)CC[N+:21](C)(C)[H:20].Cc1cc2cccc(C)c2[n:10]c1C>>C=CC(=O)NC(C)(C)CC[N:21](C)C.Cc1cc2cccc(C)c2[n+:10]([H:20])c1C 10=20;20,21=21",
"CC(C)[NH:10]CC(O)COc1ccccc1.[NH3+]CCCCc1ccc[n+:21]([H:20])c1>>CC(C)[NH+:10](CC(O)COc1ccccc1)[H:20].[NH3+]CCCCc1ccc[n:21]c1 10=20;20,21=21",
"O=C([O-])[C@H](P)CC[C@H](P)C(=O)[O:21][H:20].c1c[nH]c(P(c2[nH]cc[nH+]2)c2[nH]cc[n:10]2)n1>>O=C([O-])[C@H](P)CC[C@H](P)C(=O)[O-:21].c1c[nH]c(P(c2[nH]cc[nH+]2)c2[nH]cc[n+:10]2[H:20])n1 10=20;20,21=21",
"CC(=O)Oc1cccc2ccc[n:10]c12.c1ccc2[nH+]c([S:21][H:20])ccc2c1>>CC(=O)Oc1cccc2ccc[n+:10]([H:20])c12.c1ccc2[nH+]c([S-:21])ccc2c1 10=20;20,21=21",
"CC(=C/C=C/C(C)C(=O)O)[C@H]1C[NH2+][C@H](C(=O)[O:21][H:20])[C@H]1CC(=O)O.CC(=O)NS(=O)(=O)c1ccccc1C(=O)[O-:10]>>CC(=C/C=C/C(C)C(=O)O)[C@H]1C[NH2+][C@H](C(=O)[O-:21])[C@H]1CC(=O)O.CC(=O)NS(=O)(=O)c1ccccc1C(=O)[O:10][H:20] 10=20;20,21=21",
"CC(=O)n1cc[n+:21]([H:20])c1Cc1[nH]cc[nH+]1.CC(C)(C)NCCCCCC[NH:10]C(C)(C)C>>CC(=O)n1cc[n:21]c1Cc1[nH]cc[nH+]1.CC(C)(C)NCCCCCC[NH+:10](C(C)(C)C)[H:20] 10=20;20,21=21",
"Clc1ccc(-c2c[n:10]c(-c3ccccc3)o2)cc1.OC[C@@H]1O[C@H](C[N+:21]2([H:20])CCOCC2)[C@@H](O)[C@H](O)[C@@H]1O>>Clc1ccc(-c2c[n+:10]([H:20])c(-c3ccccc3)o2)cc1.OC[C@@H]1O[C@H](C[N:21]2CCOCC2)[C@@H](O)[C@H](O)[C@@H]1O 10=20;20,21=21",
"O=[N+]([O-])c1ccc2cc([NH2+:21][H:20])ccc2c1.[OH2:10]>>O=[N+]([O-])c1ccc2cc([NH2:21])ccc2c1.[OH2+:10][H:20] 10=20;20,21=21",
"COc1cc(C[NH2:10])ccc1O.COc1nc[n+:21]([H:20])c2nccnc12>>COc1cc(C[NH2+:10][H:20])ccc1O.COc1nc[n:21]c2nccnc12 10=20;20,21=21",
"CC(O)C[NH:10]CCO.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(O)C[NH+:10](CCO)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C=C[C@H]1C[N:10]2CC[C@@H]1C[C@H]2[C@H](O)c1ccnc2ccc(OC)cc12.CCOC(=O)COc1ccc(S(=O)(=O)c2ccc([O:21][H:20])c(C[NH3+])c2)c(Cl)c1Cl>>C=C[C@H]1C[N+:10]2([H:20])CC[C@@H]1C[C@H]2[C@H](O)c1ccnc2ccc(OC)cc12.CCOC(=O)COc1ccc(S(=O)(=O)c2ccc([O-:21])c(C[NH3+])c2)c(Cl)c1Cl 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CCCCCCCCCCCCCCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CCCCCCCCCCCCCCC[NH2+:10][H:20] 10=20;20,21=21",
"CCCCCCCCCCCCCCCC(=O)NC(Cc1c[nH]c[n+:21]1[H:20])C(=O)[O-].Cc1ccc(C(=O)[O-:10])cc1Br>>CCCCCCCCCCCCCCCC(=O)NC(Cc1c[nH]c[n:21]1)C(=O)[O-].Cc1ccc(C(=O)[O:10][H:20])cc1Br 10=20;20,21=21",
